US05173496
4-Nitrobenzyl bromide (540 mg) was added to a mixture of 1,2-dihydro-1-carboethoxy-3H-indazol-3-one (206 mg) and potassium hydroxide (67 mg) in ethanol (10 ml). The mixture was heated under reflux for 30 minutes. The cooled solution was clarified by filtration and the filtrate was evaporated. The residue was purified by column chromatography using methylene chloride as eluant to give 1,2-dihydro-1-carboethoxy-2-(4-nitrobenzyl)-3H-indazol-3-one (Ex. 39) as a solid, m.p. 123-124° C. in 59% yield.

reactant | 4-Nitrobenzyl bromide | 540 mg | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | 1,2-dihydro-1-carboethoxy-3H-indazol-3-one | 206 mg | C(=O)(OCC)N1NC(C2=CC=CC=C12)=O | C10H10N2O3
reactant | potassium hydroxide | 67 mg | [OH-].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,2-dihydro-1-carboethoxy-2-(4-nitrobenzyl)-3H-indazol-3-one | 59% yield | C(=O)(OCC)N1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H15N3O5
